US05041455
B. 3-(4-hexylamino-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.6 ml, 9.6 mmol) and 3-(4-hexylamino-1,2,5-thiadiazol-3-yl)pyridine (3.2 mmol) in acetone (5 ml) was stirred at room temperature for 18 h and evaporated.

reactant | methyl iodide | 9.6 mmol, 0.6 ml | CI | CH3I
reactant | 3-(4-hexylamino-1,2,5-thiadiazol-3-yl)pyridine | 3.2 mmol | C(CCCCC)NC=1C(=NSN1)C=1C=NC=CC1 | C13H18N4S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-hexylamino-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CCCCC)NC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C14H21N4S.HI/c1-3-4-5-6-9-15-14-13(16-19-17-14)12-8-7-10-18(2)11-12;/h7-8,10-11H,3-6,9H2,1-2H3,(H,15,17);1H/q+1;/p-1
